US04916235
Preparation of N-4-Benzocyclobutenyl-4-aminophthalimide.
1.50 g (5.10 mmol) of N-4 benzocyclobutenyl-4-nitrophthalimide, 1.70 g of MgSO4, 0.2 g of 10% Pd/C and 60 ml of ethyl acetate were placed in a pressure bottle and the mixture was then rocked on a hydrogenator under initial hydrogen pressure of 60 psi for about 17 hrs. The resultant reaction mixture, which was yellow-green, was filtered through celite and the solid residue was washed with acetone until the filtrate was colorless. The combined yellow-green filtrate was stripped to dryness to provide greenish yellow product, which was collected on a fritted filter funnel, washed with petroleum ether and dried in vacuo overnight. Yield: 1.20 g (88.9%). The product was used in the subsequent reaction without further purification. Mass Spectroscopy: M+ (264 100%). IR (KBr plate): ν(NH2):3290 m, 3390 m cm-1 ; ν(CH2) 2860 w, 2940 m; ν(imide): 1773 ms, 1690 vs cm-1, δ(imide) 744 ms, 1HNMR (acetone): 2.93 ppm (s, broad 2H); 3.23 ppm (5.4 H): 7.45 (center, complex, 6 H).

reactant | N-4 benzocyclobutenyl-4-nitrophthalimide | 5.10 mmol, 1.50 g | C1=CC2=C1C=CC(=C2)N2C(C=1C(C2=O)=CC(=CC1)[N+](=O)[O-])=O | C16H8N2O4
reactant | MgSO4 | 1.70 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KBr | [K+].[Br-]
catalyst | Pd/C | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N-4-Benzocyclobutenyl-4-aminophthalimide | C1=CC2=C1C=CC(=C2)N2C(C=1C(C2=O)=CC(=CC1)N)=O | C16H10N2O2
